US08664401B2
Step A) 1-bromo-4-(3-bromopropoxy)benzene
A suspension of 4-bromophenol (10.0 g, 58 mmol), 1,3-dibromopropane (14.0 g, 69.4 mmol) and potassium carbonate (16.0 g, 116 mmol) in DMF/THF (1:1, 200 mL) was heated to 60° C. over night. The reaction was poured into water and extracted with ether (2×200 mL). The organic layers were combined and washed with water (4×200 mL) and brine (2×200 mL). The organic layer was dried (Na2SO4), filtered and concentrated. Upon concentration a white solid precipitated, the solid was removed by filtration. The filtrate was concentrated and purified by flash column chromatography on an Anaolgix SF65-200 g column (hexanes/ethyl acetate 95:5) to afford the title compound as clear oil (6.28 g, 37%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.24-2.42 (m, 2H) 3.50-3.64 (m, 2H) 4.08 (t, J=5.66 Hz, 2H) 6.74-6.86 (m, 2H) 6.75-6.84 (m, 2H).

reactant | 4-bromophenol | 58 mmol, 10.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 1,3-dibromopropane | 69.4 mmol, 14.0 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 116 mmol, 16.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF THF | 200 mL | CN(C)C=O.C1CCOC1
product | 1-bromo-4-(3-bromopropoxy)benzene | 6.28 g, 37% | BrC1=CC=C(C=C1)OCCCBr | C9H10Br2O
